Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[O:13][H:14],4.542468652659999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.32755785701
[H:1][C:2](=[O:3])[C:12]([C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-1.33414670106
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]1[O:7][C:8]1([H:9])[H:10],-2.19729637851
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],0.795734805359
[H:4].[O:1][O:2][C:3][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.34242321548
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.6974006722
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.169772130969998
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12],4.72560526471
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.51990164092
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],7.30402659475
[C:5][C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-7.05351429907
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1],4.950838675980001
[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8].[H:9],2.56967299931
[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]1([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[O:13])[C:14]([H:15])[H:16],2.68644348
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][O:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[O:7],7.47783078105
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][H:5],4.25289206987
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])([C:8][H:14])[H:13].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([C:11])[H:12],7.00087637
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],5.12972462814
[C:4](#[C:5][H:6])[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]/[C:3]([C:4]#[C:5][H:6])=[C:7](/[H:8])[O:9][H:10],-2.8861671259900006
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.83945083962
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.23098452
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([H:4])#[C:5][O:6][H:7]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.3534452150299998
[H:1][C:2]([H:3])[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],4.979890033459999
[C:1]#[C:2][C:3]([O:4])([H:5])[H:6]>>[C:1]#[C:2].[C:3](=[O:4])([H:5])[H:6],1.37775478854
[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-1.56676892034
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[O:12][H:13].[O:1],6.03043459769
[H:1][C:2]([H:3])([H:4])[C:5].[O:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.23174283213
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][H:8].[H:6],4.80921503666
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9],6.995946128530001
